US06143789
N-[2-(3-Iodo-7-methoxy-1-naphthyl)ethyl]acetamide
A solution is formed by adding 46.25 ml of glacial acetic acid and 1.25 ml of concentrated sulphuric acid to 2.5 ml of water. 2.5 g of N-[2-(7-methoxy-1-naphthyl)ethyl]acetamide (10.31 mmol) are dissolved in 30 ml of that solution. 2.09 g of iodine (8.25 mmol) and 0.91 g of HIO3 (5.16 mmol) are then added to the reaction mixture, causing a grey precipitate to appear in a solution that has turned red. The reaction mixture is heated for 15 hours at 65° C., 5.14 ml of concentrated hydriodic acid (13.41 mmol) are added and heating is continued for 2 hours. The suspension is then poured into 200 ml of water and the precipitate that forms is filtered off. The precipitate is dissolved in ethyl acetate and washed with 1M NaHCO3, the organic phase is then concentrated, and purified by chromatography on silica gel, using a dichloromethane/methanol mixture, 99.5/0.5, as eluant, to yield the title product.

reactant | sulphuric acid | 1.25 ml | S(O)(O)(=O)=O | H2O4S
reactant | N-[2-(7-methoxy-1-naphthyl)ethyl]acetamide | 10.31 mmol, 2.5 g | COC1=CC=C2C=CC=C(C2=C1)CCNC(C)=O | C15H17NO2
reactant | iodine | 8.25 mmol, 2.09 g | II | I2
reactant | hydriodic acid | 13.41 mmol, 5.14 ml | I | HI
solvent | water | 200 ml | O | H2O
solvent | water | 2.5 ml | O | H2O
solvent | acetic acid | 46.25 ml | C(C)(=O)O | C2H4O2
product | N-[2-(3-Iodo-7-methoxy-1-naphthyl)ethyl]acetamide | IC=1C=C(C2=CC(=CC=C2C1)OC)CCNC(C)=O | C15H16INO2
